US07074819B2
Step 1) Synthesis of 7-(methoxymethoxy)-3-(4-methoxymethoxyphenyl)-4-(9-piperazinylnonyl)-3-methylchroman
9-{7-(Methoxymethoxy)-3-[4-(methoxymethoxy)phenyl]-3-methylchroman-4-yl}nonyl 4-methylbenzenesulfonate (540 mg, 0.843 mmol) and piperazine (2.2 g, 25.5 mmol) were dissolved in dioxane and then the mixture was refluxed for 2 hours. The mixture was cooled down to room temperature, basified to pH 13 using 5N-NaOH, and then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and filtered, and the organic solvent was removed under reduced pressure. The concentrate was subjected to column chromatography (methanol) to give 380 mg (yield: 81%, (3RS,4RS):(3RS,4SR)=5:4) of the title compound as a white solid.

reactant | 9-{7-(Methoxymethoxy)-3-[4-(methoxymethoxy)phenyl]-3-methylchroman-4-yl}nonyl 4-methylbenzenesulfonate | 0.843 mmol, 540 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCCCCCCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C36H48O8S
reactant | piperazine | 25.5 mmol, 2.2 g | N1CCNCC1 | C4H10N2
reactant | NaOH | [OH-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 7-(methoxymethoxy)-3-(4-methoxymethoxyphenyl)-4-(9-piperazinylnonyl)-3-methylchroman | yield: 81% | COCOC1=CC=C2C(C(COC2=C1)(C)C1=CC=C(C=C1)OCOC)CCCCCCCCCN1CCNCC1 | C33H50N2O5
